US07507740B2
(ii) Production of ethyl 3-amino-5-[4-(ethoxycarbonyl)phenyl]-1H-pyrrole-2-carboxylate
To a suspension of methyl 4-(2-cyano-1-{[(4-methylphenyl)sulfonyl]oxy}vinyl)benzoate (17.5 g) and diethyl aminomalonate hydrochloride (10.36 g) in a mixed solvent of ethanol (165 mL)-tetrahydrofuran (80 mL) was added dropwise a solution (50 mL) of 20% sodium ethoxide in ethanol under ice-cooling. After stirring under ice-cooling for 1 hr, the mixture was stirred at room temperature for 21 hr. the reaction mixture was poured into ice water (400 mL) and adjusted to pH 7 with 1N hydrochloric acid. The organic solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate (250 mL×3). The organic layers were combined, washed with saturated brine (150 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=2:1→1:1) and the obtained solid was recrystallized from ethyl acetate to give the title compound (4.76 g).

reactant | methyl 4-(2-cyano-1-{[(4-methylphenyl)sulfonyl]oxy}vinyl)benzoate | 17.5 g | C(#N)C=C(OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C(=O)OC)C=C1 | C18H15NO5S
reactant | diethyl aminomalonate hydrochloride | 10.36 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | sodium ethoxide | 50 mL | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 165 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | ethyl 3-amino-5-[4-(ethoxycarbonyl)phenyl]-1H-pyrrole-2-carboxylate | 4.76 g | NC1=C(NC(=C1)C1=CC=C(C=C1)C(=O)OCC)C(=O)OCC | C16H18N2O4
